US04058624
Preparation of 1,5-Di-(4-Isopropylphenyl)-3-pentanone
3-(4-Isopropylphenyl)propionic acid (0.20 mole) and iron (hydrogen reduced, 6.15 g., 0.11 mole) are heated for 1.5 hours at 195° C. under a nitrogen atmosphere. After that time, the temperature is increased to 290° C. and maintained at that temperature for 3 hours. The cooled reaction mass is extracted well with ether, filtered through Celite, and the ethereal extracts concentrated under vacuum. The residue is stripped under vacuum to leave the product, 17.3 g. (51%).

reactant | 3-(4-Isopropylphenyl)propionic acid | 0.20 mole | C(C)(C)C1=CC=C(C=C1)CCC(=O)O | C12H16O2
catalyst | iron | 0.11 mole, 6.15 g | [Fe] | Fe
product | 1,5-Di-(4-Isopropylphenyl)-3-pentanone | C(C)(C)C1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)C(C)C)=O | C23H30O
